US08349893B2
The title compound, m/e=445.6 ([M−H]−), was produced in analogy with intermediate 1, steps 1 to 4. Thus, 1,8-octanediol was alkylated in step 1 with 4-trifluoromethyl-benzyl bromide, leading to 8-(4-trifluoromethyl-benzyloxy)-octan-1-ol, which was oxidized in step 2 to 8-(4-trifluoromethyl-benzyloxy)-octanoic acid. This was coupled in step 3 with (R)-3-amino-4-dimethylamino-butyric acid benzyl ester dihydrochloride to produce (R)-3-[8-(4-trifluoromethyl-benzyloxy)-octanoylamino]-4-dimethylamino-butyric acid benzyl ester, which was hydrogenated in step 4.

reactant | 1,8-octanediol | C(CCCCCCCO)O | C8H18O2
reactant | 4-trifluoromethyl-benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | 8-(4-trifluoromethyl-benzyloxy)-octan-1-ol | FC(C1=CC=C(COCCCCCCCCO)C=C1)(F)F | C16H23F3O2
reactant | 8-(4-trifluoromethyl-benzyloxy)-octanoic acid | FC(C1=CC=C(COCCCCCCCC(=O)O)C=C1)(F)F | C16H21F3O3
reactant | (R)-3-amino-4-dimethylamino-butyric acid benzyl ester dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)OC(C[C@H](CN(C)C)N)=O
product | (R)-3-[8-(4-trifluoromethyl-benzyloxy)-octanoylamino]-4-dimethylamino-butyric acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](CN(C)C)NC(CCCCCCCOCC1=CC=C(C=C1)C(F)(F)F)=O)=O | C29H39F3N2O4
